US07319152B2
5-(3-acetylphenyl)-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 3-acetyl phenyl boronic acid according to the procedure described in example 21. MS (ESI) m/z 279; HRMS: calcd for C19H18O2+H+, 279.13796; found (ESI, [M+H]+), 279.1374.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 3-acetyl phenyl boronic acid | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
product | 5-(3-acetylphenyl)-3,3-dimethylindan-1-one | C(C)(=O)C=1C=C(C=CC1)C=1C=C2C(CC(C2=CC1)=O)(C)C | C19H18O2
